US04824892
3 g of trifluoromethanesulfonic acid were added to a solution of 48.5 g (0.1 mole) of 1,3-bis-(4-benzoyl-3-hydroxyphenoxy)-2-propanol and 51 g (0.6 mole) of cyanoacetic acid in 750 ml of 1,2-dichloroethane, and the solution was heated for 9 hours at a temperature of 80° to 85° C. After cooling to room temperature, the reaction mixture was washed with three times 400 ml of water. The 1,2-dichloroethane was distilled off from the reaction mixture under a pressure of 50 mbar and a temperature of 35° to 45° C. The residue remaining was recrystallized from acetonitrile. After drying, 48 g (87 percent of theory) of 1,3-bis-(4-benzoyl-3-hydroxyphenoxy)-prop-2-yl cyanoacetate were obtained in the form of slightly yellow, fine crystals having a melting point of 167° to 168° C. and a purity of 99 percent (HPLC).

reactant | trifluoromethanesulfonic acid | 3 g | FC(S(=O)(=O)O)(F)F | CHF3O3S
reactant | 1,3-bis-(4-benzoyl-3-hydroxyphenoxy)-2-propanol | 0.1 mole, 48.5 g | C(C1=CC=CC=C1)(=O)C1=C(C=C(OCC(COC2=CC(=C(C=C2)C(C2=CC=CC=C2)=O)O)O)C=C1)O | C29H24O7
reactant | cyanoacetic acid | 0.6 mole, 51 g | C(#N)CC(=O)O | C3H3NO2
solvent | 1,2-dichloroethane | 750 ml | ClCCCl | C2H4Cl2
product | 1,3-bis-(4-benzoyl-3-hydroxyphenoxy)-prop-2-yl cyanoacetate | 48 g, 87 percent | C(#N)CC(=O)OC(COC1=CC(=C(C=C1)C(C1=CC=CC=C1)=O)O)COC1=CC(=C(C=C1)C(C1=CC=CC=C1)=O)O | C32H25NO8
